US09233104B2
To a solution of 3-(4-methyl-imidazol-1-yl)-2-nitro-phenylamine (CXXIX) in methanol was added with 5% Pd/C. The combination was stirred under a hydrogen filled balloon at 40° C. for 6 hours. The solution was then filtered through a pad of Celite. The filtrate was concentrated in vacuo to get 3-(4-methyl-imidazol-1-yl)-benzene-1,2-diamine (CXXX). 1H NMR (CDCl3, 400 MHz) δ ppm 2.17 (s, 3H), 6.54 (m, 1H), 6.80 (m, 1H), 6.97 (m, 1H), 7.28 (m, 1H), 7.56 (m, 1H).

reactant | 3-(4-methyl-imidazol-1-yl)-2-nitro-phenylamine | CC=1N=CN(C1)C=1C(=C(C=CC1)N)[N+](=O)[O-] | C10H10N4O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(4-methyl-imidazol-1-yl)-benzene-1,2-diamine | CC=1N=CN(C1)C1=C(C(=CC=C1)N)N | C10H12N4
